US05723475
Synthesis of 2-benzyl-1-(2-bromoacetylamino)-6-methylbenzene (13)
2-benzyl-6-methylaniline [A. W. H. Wardrop et al.: J. Chem. Soc., Perkin Trans. 1, 12, 1279 (1976)] and bromoacetyl bromide were used to produce the above compound in the same way as Reference Example 8.

reactant | 2-benzyl-6-methylaniline | C(C1=CC=CC=C1)C1=C(N)C(=CC=C1)C | C14H15N
reactant | bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
product | 2-benzyl-1-(2-bromoacetylamino)-6-methylbenzene | C(C1=CC=CC=C1)C1=C(C(=CC=C1)C)NC(CBr)=O | C16H16BrNO
